US07371872B2
(1S,2S,4S,5R,6R)-2-(2′-tert-Butoxycarbonylamino-3′-phenyl-propionylamino)-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester
Prepare according to the General Procedure A using Boc-L-phenylalanine (772 mg, 2.91 mmoles) and (1S,2S,4S,5R,6R)-2-amino-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester (480 mg, 1.94 mmoles, Preparation 22). Concentrate the crude reaction mixture, dissolve in dichloromethane, flash through a short silica gel plug with ethyl acetate/DCM (1:1), and concentrate in-vacuo to give a yellow oil. Further purify the material by silica gel chromatography eluting with 30% ethyl acetate/hexanes to 80% ethyl acetate/hexanes to afford 852 mg (87%) of the title compound.

reactant | Boc-L-phenylalanine | 2.91 mmoles, 772 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | (1S,2S,4S,5R,6R)-2-amino-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 1.94 mmoles, 480 mg | C(C)OC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)O)C(=O)OCC)N | C12H19NO5
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1S,2S,4S,5R,6R)-2-(2′-tert-Butoxycarbonylamino-3′-phenyl-propionylamino)-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 852 mg, 87% | C(C)OC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)O)C(=O)OCC)NC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C26H36N2O8
